US05470851
4-Diphenylmethylene-1-(2-phthalimidoethyl)piperidine
The title compound was prepared in a yield of 88% in a similar manner to that described in Preparation 1' by reacting N-(2-bromoethyl)phthalimide and 4-diphenylmethylenepiperidine.

reactant | N-(2-bromoethyl)phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | 4-diphenylmethylenepiperidine | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H19N
product | 4-Diphenylmethylene-1-(2-phthalimidoethyl)piperidine | yield of 88% | C1(=CC=CC=C1)C(=C1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C28H26N2O2
